US07902252B2
4.31. Synthesis of 6-(3,4-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (112)
The title compound was synthesized from ethyl 6-(3,4-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate and lithium hydroxide in water according to General Procedure 7.

reactant | ethyl 6-(3,4-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | FC=1C=C(C=CC1F)C1CCC2=C1NC(=C2)C(=O)OCC | C16H15F2NO2
reactant | lithium hydroxide | [OH-].[Li+]
solvent | water | O | H2O
product | 6-(3,4-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | FC=1C=C(C=CC1F)C1CCC2=C1NC(=C2)C(=O)O | C14H11F2NO2
